US08748645B2
Siliconate from methyltri-methoxysilane/3,3,3-trifluoropropyltrimethoxysilane/KOH (0.9:0.1:0.65)
A 500 ml 5-neck round-bottom flask, rendered inert with nitrogen and equipped with paddle stirrer, dropping funnel, thermometer, and water separator with reflux condenser, is charged with 50 g (0.36 mol) of methyl-trimethoxysilane (available commercially from Wacker Chemie AG), 8.8 g (0.04 mol) of 3,3,3-trifluoro-propyltrimethoxysilane (available commercially from Fluka), and 39.7 g of Isopar E (isoparaffinic hydro-carbon mixture having a boiling range of 113-143° C., available commercially from ExxonMobil). The water separator is filled to the brim with Isopar E. Accompanied by stirring at 350 rpm, a solution of 17.2 g of potassium hydroxide (85% strength, available commercially from AppliChem) (0.26 mol of potassium hydroxide) and 15.3 g of demineralized water is metered in over 12 minutes. During this metered addition, the mixture heats up to 67° C. The mixture is heated to boiling temperature (70° C.). The distillate separates out as the bottom phase in the water separator. Up to a boiling temperature of 119° C., 48.5 g of colorless, slightly turbid distillate accumulate. The suspension which remains is subsequently evaporated to dryness with stirring under a full oil-pump vacuum (5 hPa) to 70° C. This gives 45.9 g of fine, white, free-flowable powder with a solids content of 99.7% (determined using the HR73 halogen moisture analyzer from Mettler Toledo at 160° C.). A 50% strength aqueous solution prepared with this powder exhibits no precipitation even after being stored at room temperature for two weeks in the absence of air.

reactant | methyl-trimethoxysilane | 0.36 mol, 50 g | C[Si](OC)(OC)OC | C4H12O3Si
reactant | 3,3,3-trifluoro-propyltrimethoxysilane | 0.04 mol, 8.8 g | FC(CC[Si](OC)(OC)OC)(F)F | C6H13F3O3Si
reactant | potassium hydroxide | 17.2 g | [OH-].[K+]
reactant | potassium hydroxide | 0.26 mol | [OH-].[K+]
solvent | water | O | H2O
solvent | water | 15.3 g | O | H2O
product | methyltri-methoxysilane 3,3,3-trifluoropropyltrimethoxysilane KOH | C[Si](OC)(OC)OC.FC(CC[Si](OC)(OC)OC)(F)F.[OH-].[K+] | InChI=1S/C6H13F3O3Si.C4H12O3Si.K.H2O/c1-10-13(11-2,12-3)5-4-6(7,8)9;1-5-8(4,6-2)7-3;;/h4-5H2,1-3H3;1-4H3;;1H2/q;;+1;/p-1
